US04774253
7.5 ml of concentrated sulphuric acid were added carefully to a suspension, cooled in ice, of 1.4 g (5.9 mmol) of 5-(4-chlorophenyl)-2-ethoxymethyl-oxazole in 4.5 ml of water. The resulting solution was stirred and heated at 140° C. under reflux for 4 hours, then cooled and poured on to 140 ml of ice/water. The mixture was extracted three times with 30 ml of dichloromethane each time. The combined dichloromethane extracts were washed with 50 ml of saturated sodium hydrogen carbonate solution, dried over sodium sulphate, filtered and evaporated. Recrystallization of the product from toluene yielded 0.80 g (65%) of 5-(4-chlorophenyl)-2-oxazolemethanol of melting point 100°-103.5° C.

reactant | sulphuric acid | 7.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-(4-chlorophenyl)-2-ethoxymethyl-oxazole | 5.9 mmol, 1.4 g | ClC1=CC=C(C=C1)C1=CN=C(O1)COCC | C12H12ClNO2
solvent | water | 4.5 ml | O | H2O
product | 5-(4-chlorophenyl)-2-oxazolemethanol | 0.80 g, 65% | ClC1=CC=C(C=C1)C1=CN=C(O1)CO | C10H8ClNO2
